US04265898
2-(2-Chlorophenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole
10.5 g (0.05 mol) of 2-amino-5-(2-chlorophenyl)-1,3,4-thiadiazole, melting point 189,5° C. (prepared by reacting thiosemicarbazide with 2-chlorobenzoyl chloride) together with 10 g (0.05 mol) of bromoacetophenone are warmed to 120° C. in 100 ml of dimethylformamide for 3 hours and the mixture is then cooled and concentrated in a rotary evaporator. After digesting the residue with water, the digestion mixture is filtered and the residue is recrystallised from alcohol. A second fraction is obtained by concentrating the alcoholic mother liquor. A total yield of 12.5 g, corresponding to 80% of theory, of colourless crystals of melting point 126° C. is obtained.

reactant | 2-amino-5-(2-chlorophenyl)-1,3,4-thiadiazole | 0.05 mol, 10.5 g | NC=1SC(=NN1)C1=C(C=CC=C1)Cl | C8H6ClN3S
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | bromoacetophenone | 0.05 mol, 10 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2-Chlorophenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole | ClC1=C(C=CC=C1)C1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C16H10ClN3S
